US09353075B2
Step 3. Preparation of (2R,3S)-2-(5-cyclohexylpentoxycarbonylamino)-3-hydroxy-butanoic acid
To a stirred mixture of D-threonine (0.15 g, 1.25 mmol) and NaHCO3 (0.16 g, 1.89 mmol) in H2O (3.5 mL), the crude mixture containing 5-cyclohexylpentyl 2-pyridyl carbonate and 5-cyclohexylpentyl 2-oxopyridine 1-carboxylate (0.55 g, 1.5 mmol) in THF (3.5 mL) was added. After 15 h at rt, the crude mixture was rotary evaporated to remove the organics and subsequently extracted with Et2O (3×5 mL). The aqueous phase was acidified with 2M HCl solution to pH 2-3 and subsequently extracted with AcOEt (3×10 mL). The organic fraction was dried over Na2SO4, filtered and concentrated to dryness to afford the title compound (0.32 g, 81%) as transparent oil, which was used in the next step without further purification. MS (ESI) m/z: 316 [M−H]+; (ESI) m/z: 314 [M−H]−. 1H NMR (DMSO-d6): δ 0.77-0.93 (m, 2H), 1.02-1.37 (m, 13H), 1.45-1.72 (m, 7H), 3.88-3.99 (m, 3H), 4.01-4.11 (m, 1H), 6.66 (d, J=9.0 Hz, 1H), 11.77 (br s, 1H).

reactant | D-threonine | 1.25 mmol, 0.15 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | NaHCO3 | 1.89 mmol, 0.16 g | C(=O)(O)[O-].[Na+]
reactant | 5-cyclohexylpentyl 2-pyridyl carbonate | C(OCCCCCC1CCCCC1)(OC1=NC=CC=C1)=O | C17H25NO3
reactant | 5-cyclohexylpentyl 2-oxopyridine 1-carboxylate | 1.5 mmol, 0.55 g | O=C1N(C=CC=C1)C(=O)OCCCCCC1CCCCC1 | C17H25NO3
solvent | H2O | 3.5 mL | O | H2O
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | (2R,3S)-2-(5-cyclohexylpentoxycarbonylamino)-3-hydroxy-butanoic acid | 0.32 g, 81% | C1(CCCCC1)CCCCCOC(=O)N[C@@H](C(=O)O)[C@H](C)O | C16H29NO5
